US06531502B1
3-Cyclopentyl-4-methoxybenzaldehyde was condensed with 5-chloro-2-oxindole to give 0.3 g of 5-chloro-3-(3-cyclopentyl-4-methoxybenzylidene)-1,3-dihydroindol-2-one as a yellow-orange solid.

reactant | 3-Cyclopentyl-4-methoxybenzaldehyde | C1(CCCC1)C=1C=C(C=O)C=CC1OC | C13H16O2
reactant | 5-chloro-2-oxindole | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
product | 5-chloro-3-(3-cyclopentyl-4-methoxybenzylidene)-1,3-dihydroindol-2-one | 0.3 g | ClC=1C=C2C(C(NC2=CC1)=O)=CC1=CC(=C(C=C1)OC)C1CCCC1 | C21H20ClNO2
